US07304160B2
A solution of 1-[4-benzyloxymethyl-3-(1-methylpyrrolidin-2-yl)-4H-pyridin-1-yl]-2,2-dimethyl-propan-1-one (0.176 g, 0.48 mmol), sulfur (0.015 g. 0.48 mmol) and toluene (5 mL) was refluxed for 3 days. After filtration of the mixture through a pad of Celite and evaporation of the solvent under reduced pressure, the crude material was purified by radial PLC (hexanes) to afford 0.08 g (60%) of 4-benzyloxymethyl-3-(1-methylpyrrolidin-2-yl) -pyridine as a yellow oil. IR (thin film, neat, NaCl) 3436, 1637, 1090 cm−1; 1H NMR (CDCl3, 300 MHz) δ 8.74 (s, 1 H), 8.47 (d, 1 H, J=4.8 Hz), 7.40-7.27 (m, 6 H), 4.62 (d, 2 H,J=13. 2 Hz), 3.34-3.18 (m, 2 H), 2.28-2.18 (m, 2 H), 2.15 (s, 3 H), 2.11-1.09 (m, 5 H); 13C NMR (CDCl3, 75 MHz) δ 149.31, 148.37, 145.16, 137.86, 128.67, 128.06, 127.98, 122.14, 72.92, 68.19, 65.88, 57.07, 40.75, 34.28, 27.83, 22.91; HRMS Calcd for C18H22N2O: 283.1810 [M+H]+. Found: 283.1800 [M+H]+. [α]D24−75.9 (c 2.5, CH2Cl2).

reactant | 1-[4-benzyloxymethyl-3-(1-methylpyrrolidin-2-yl)-4H-pyridin-1-yl]-2,2-dimethyl-propan-1-one | 0.48 mmol, 0.176 g | C(C1=CC=CC=C1)OCC1C(=CN(C=C1)C(C(C)(C)C)=O)C1N(CCC1)C | C23H32N2O2
reactant | sulfur | 0.48 mmol, 0.015 g | [S] | S
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 4-benzyloxymethyl-3-(1-methylpyrrolidin-2-yl) -pyridine | 0.08 g, 60% | C(C1=CC=CC=C1)OCC1=C(C=NC=C1)C1N(CCC1)C | C18H22N2O
